US07067658B2
[4-(2,4-Dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (2.11 g, 5.72 mmol) and Na2S2O4 (8.03 g, 46.1 mmol) were treated substantially as described in Part E of Example 9 to yield 1.14 g (59%) of 4-(2,4-dichloro-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine: MS (AP) m/z 340.2 [(M+H)+, 100].

reactant | [4-(2,4-Dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 5.72 mmol, 2.11 g | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C16H17Cl2N3O3
reactant | Na2S2O4 | 46.1 mmol, 8.03 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | 4-(2,4-dichloro-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 1.14 g, 59% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(CC)COC)N | C16H19Cl2N3O
